US05516806
a) 2-[cis-3-(N-BOC-amino)-cyclopentylmethoxv]-1H-isoindole-1,3(2H)-dione
A solution of 2.94 ml (0.01755 mol) of diethyl azodicarboxylate (93%) in 10 ml of benzene is added dropwise to a mixture of 3.6 g (0.01672 mol) of cis-3-(N-BOC-amino)-cyclopentanemethanol, 2.73 g (0.01673 mol) of N-hydroxyphthalimide, 4.49 g (0.01672 mol) of triphenylphosphine and 60 ml of benzene at 20°-30° C., while stirring. After the mixture has been stirred at room temperature for 1 hour, the precipitate formed during the reaction is filtered off, the residue on the filter is suspended in benzene and the suspension is filtered again. The latter operation is repeated twice more (residue on the filter: diethyl 1,2-hydrazinedicarboxylate), and the resulting filtrates are combined and these are evaporated in vacuo. Purification of the residue is carried out by means of flash chromatography on silica gel using ethyl acetate/hexane mixtures (1:3 and 1:1). The title compound is thus obtained, m.p. 162°-163° C.

reactant | diethyl azodicarboxylate | 0.01755 mol, 2.94 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | cis-3-(N-BOC-amino)-cyclopentanemethanol | 0.01672 mol, 3.6 g | C(=O)(OC(C)(C)C)N[C@H]1C[C@H](CC1)CO | C11H21NO3
reactant | N-hydroxyphthalimide | 0.01673 mol, 2.73 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.01672 mol, 4.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 2-[cis-3-(N-BOC-amino)-cyclopentylmethoxv]-1H-isoindole-1,3(2H)-dione | C(=O)(OC(C)(C)C)N[C@H]1C[C@H](CC1)CON1C(C2=CC=CC=C2C1=O)=O | C19H24N2O5
